US03963731
To 2.13 g. (0.01 mole) of 3,5-di(4-pyridyl)-1,2,4-triazole in 200 ml. of tetrahydrofuran is added 57% sodium hydride in mineral oil (0.42 g., 0.01 moles). The reaction mixture is heated at reflux for 1 hour, cooled and a solution of dimethylcarbamoyl chloride (1 g., 0.01 mole) in 10 ml. of tetrahydrofuran is added dropwise. The reaction mixture is heated at reflux for 4 hours, cooled, filtered and concentrated to an oil which solidifies. After recrystallization from benzene 1.2 g. of 1-dimethylcarbamoyl-3,5-di(4-pyridyl)-1,2,4-triazole melting at 140°-141.5°C. is obtained.

reactant | 3,5-di(4-pyridyl)-1,2,4-triazole | 0.01 mole | N1=CC=C(C=C1)C1=NNC(=N1)C1=CC=NC=C1 | C12H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylcarbamoyl chloride | 0.01 mole, 1 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-dimethylcarbamoyl-3,5-di(4-pyridyl)-1,2,4-triazole | CN(C(=O)N1N=C(N=C1C1=CC=NC=C1)C1=CC=NC=C1)C | C15H14N6O
